US07199147B2
To a solution of 4-bromopiperidine hydrobromide (3.0 g, 12.2 mmol) in tetrahydrofuran (30 ml) were added 1-{[(benzyloxy)carbonyl]oxy}-2,5-pyrrolidinedione (3.20 g, 12.9 mmol), N-methylmorpholine (1.62 ml, 14.7 mmol) and 4-N,N-dimethylaminopyridine (30 mg) at room temperature, and stirred at room temperature for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with a 1N-aqueous hydrochloric acid solution, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=1/1) to obtain benzyl 4-bromo-1-piperidinecarboxylate (3.58 g, 98%).

reactant | 4-bromopiperidine hydrobromide | 12.2 mmol, 3.0 g | Br.BrC1CCNCC1
reactant | 1-{[(benzyloxy)carbonyl]oxy}-2,5-pyrrolidinedione | 12.9 mmol, 3.20 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | N-methylmorpholine | 14.7 mmol, 1.62 ml | CN1CCOCC1 | C5H11NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | benzyl 4-bromo-1-piperidinecarboxylate | 3.58 g, 98% | BrC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H16BrNO2
